US07728025B2
(Step 6) Production of 2,2,2-trifluoro-1-(2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
100 mg of developed Raney nickel catalyst was added to an ethanol (10 ml) solution of 521 mg of 1-(2-(5-amino-2-(4-methanesulfonyl-phenoxy)-4-nitro-phenyl)-pyrrolidin-1-yl)-2,2,2-trifluoro-ethanone, and the reaction liquid was stirred overnight in a hydrogen atmosphere. The catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure to obtain a crude product. 226 mg of pyridine-2-carboxaldehyde was added to a methanol (10 ml) solution of 448 mg of the resulting crude product, and the reaction liquid was stirred overnight at 50° C. Water was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=20/1) to obtain the entitled compound as a pale yellow solid.

reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 1-(2-(5-amino-2-(4-methanesulfonyl-phenoxy)-4-nitro-phenyl)-pyrrolidin-1-yl)-2,2,2-trifluoro-ethanone | 521 mg | NC=1C(=CC(=C(C1)C1N(CCC1)C(C(F)(F)F)=O)OC1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C19H18F3N3O6S
reactant | hydrogen | [H][H] | H2
reactant | pyridine-2-carboxaldehyde | 226 mg | N1=C(C=CC=C1)C=O | C6H5NO
catalyst | Raney nickel | 100 mg | [Ni] | Ni
solvent | Water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2,2,2-trifluoro-1-(2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | FC(C(=O)N1C(CCC1)C1=CC2=C(N=C(N2)C2=NC=CC=C2)C=C1OC1=CC=C(C=C1)S(=O)(=O)C)(F)F | C25H21F3N4O4S
